US07943776B2
N-cyclopropyl-3-({4-[(5-hydroxypyridin-2-yl)methoxy]benzoyl}amino)-4-methylbenzamide hydrobromide
To a stirred solution of N-cyclopropyl-4-methyl-3-{[4-(5-benzyloxypyridin-2-ylmethoxy)benzoyl]amino}benzamide (1.0 g, 1.97 mmol) in glacial acetic acid (10 mL) was added a solution of HBr (48% in acetic acid, 30 mL). After 6 hours at 25° C. the solution was diluted with etlher (100 mL) and the resultant precipitate filtered off and dried to give the title compound as a pale yellow solid (610 mg, 62%); NMR SIpectirum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 2.25 (s, 3H), 2.84 (m, 1H), 5.36 (s, 2H), 7.18 (d, 2H), 7.31 (d, 1H), 7.63 (dd, 1H), 7.78-7.84 (m, 3H), 8.00 (d, 2H), 8.36 (m, 2H), 9.86 (s, 1H); Mass Spectrum: M+H+ 418.

reactant | N-cyclopropyl-4-methyl-3-{[4-(5-benzyloxypyridin-2-ylmethoxy)benzoyl]amino}benzamide | 1.97 mmol, 1.0 g | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C31H29N3O4
reactant | HBr | 30 mL | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-cyclopropyl-3-({4-[(5-hydroxypyridin-2-yl)methoxy]benzoyl}amino)-4-methylbenzamide hydrobromide | 610 mg, 62% | Br.C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=C(C=C1)O)=O)=O | InChI=1S/C24H23N3O4.BrH/c1-15-2-3-17(24(30)26-18-6-7-18)12-22(15)27-23(29)16-4-10-21(11-5-16)31-14-19-8-9-20(28)13-25-19;/h2-5,8-13,18,28H,6-7,14H2,1H3,(H,26,30)(H,27,29);1H
